US04846998
20 g of p-(2-methyl-4-n-propylcyclohexyl)-benzoic acid (Examaple 5) is boiled for 1 hour with 24 g of SOCl2, the mixture is evaporated to dryness, the resulting crude acid chloride is dissolved in 150 ml of toluene, to which are added 8 ml of pyridine and 13.2 g of ethylphenol, and the mixture is boiled for 2 hours. Cooling down and customary working up give p-ethylphenyl p-(2-methyl-4-n-propylcyclohexyl)-benzoate.

reactant | p-(2-methyl-4-n-propylcyclohexyl)-benzoic acid | 20 g | CC1C(CCC(C1)CCC)C1=CC=C(C(=O)O)C=C1 | C17H24O2
reactant | SOCl2 | 24 g | O=S(Cl)Cl | Cl2OS
product | p-ethylphenyl p-(2-methyl-4-n-propylcyclohexyl)-benzoate | CC1C(CCC(C1)CCC)C1=CC=C(C(=O)OC2=CC=C(C=C2)CC)C=C1 | C25H32O2
